US08426411B2
To a solution of 2-(1-azidobut-3-enyl)-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (3.90 g, 10.6 mmol) in THF (60 mL) and water (30 mL) was added triphenylphosphine (3.33 g, 12.7 mmol). The reaction mixture was heated to about 50° C. for about 15 h. The reaction mixture was cooled to ambient temperature and concd in vacuo. The residue was dissolved in EtOAc (30 mL) and HCl (gas) was added until a pH of about 1 was maintained followed by the addition of Et2O to induce precipitate formation. After stirring for about 15 h, the precipitate was collected by filtration to provide 1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)but-3-en-1-amine hydrochloride (2.5 g, 62%) as a tan solid: LC/MS (Table 1, Method a) Rt=1.80 min; MS m/z: 343 (M+H)+.

reactant | 2-(1-azidobut-3-enyl)-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 10.6 mmol, 3.90 g | N(=[N+]=[N-])C(CC=C)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H16N6O2S
reactant | triphenylphosphine | 12.7 mmol, 3.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)but-3-en-1-amine hydrochloride | 2.5 g, 62% | Cl.S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)C(CC=C)N | InChI=1S/C17H18N4O2S.ClH/c1-3-4-14(18)16-11-19-17-15(20-16)9-10-21(17)24(22,23)13-7-5-12(2)6-8-13;/h3,5-11,14H,1,4,18H2,2H3;1H
